Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___.
 
Chief Complaint:
Left buttock pain and drainage
 
Major Surgical or Invasive Procedure:
___
1. Incision and drainage of perirectal abscess.
2. Examination under anesthesia

 
History of Present Illness:
___ hx of DM2, peripheral neuropathy, urinary incontinence,
HTN, endometrial cancer, and anemia presents with a nonhealing
ulcer on her left gleuteal region for 7 days. Upon arrival in 
the
ED, she reported a sore pain of ___ in severity in the left
gleuteal region. Currently 7 hrs after arrival, she resports no
pain, only pressure, while laying on her back or sitting. She 
has
noticed a brown, sticky, foul smelling discharge in her
underpants. She cannot say how much discharge is put out, but 
not
enough to soak a pad overnight. 

She first felt the ulcer 7 days prior to admission and says it
has been excruciating since then. She saw her PCP, ___
she first felt the ulcer, who thought it was not infected and
could be managed by a visiting nurse. A nurse came to her home 
on
___, and said she needed to go to a wound clinic. She had an
appointment at ___ today, but it was with the wrong 
department,
so she came to the ED. 

 
Past Medical History:
1.  Diabetes mellitus type 2 with diabetic nephropathy
2.  Anemia
3.  Depression
4.  Hypertension
5.  Urinary incontinence
6.  Low back pain
7.  Osteoarthritis
8.  Endometrial Cancer- s/p Total abdominal hysterectomy with 
bilateral salpingo-oophorectomy in ___, c/b urinary 
incontinence, previously self cathing, then developed 
vesiculocutaneous fistulas and given bilateral nephrostomy 
tubes. 
 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid).  DM in 
sister.
 
Physical Exam:
T=97.5 P=78 BP=122/59 RR=20 O2sat=100%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, grade II/VI systolic murmur
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, 
Ext: Bilateral ___ edema, ___ warm and well perfused
Wound: 2cm X 1.5cm ulcer on interior left gluteal fold; crusted
with moist border; warm, erythematous area extends roughly 10 cm
beyond wound with 5-6cm induration. No fluctuation, no rectal or
perineal involvement.
DRE: normal tone, guiac negative, walls intact

 
Pertinent Results:
___ Abd/pelvis :

1. Large amount of subcutaneous gas in the left gluteal region 
which appears to track from the left gluteal cleft skin, at site 
of ulceration. Necrotizing fasciitis is not excluded. No 
drainable fluid collection seen. 
2. Bilateral hydroureters with bilateral nephrostomy tubes 
partially imaged.  Bladder not fully distended, but again 
appears irregular and thick-walled. 
3. Ventral hernia containing non-obstructed loops of bowel. 

___ 06:50AM BLOOD WBC-12.7* RBC-3.60* Hgb-11.2* Hct-31.7* 
MCV-88 MCH-31.0 MCHC-35.3* RDW-14.6 Plt ___
___ 05:45PM BLOOD WBC-13.6* RBC-3.53* Hgb-10.9* Hct-31.3* 
MCV-89 MCH-30.9 MCHC-34.9 RDW-14.6 Plt ___
___ 06:40AM BLOOD WBC-15.0* RBC-3.22* Hgb-9.8* Hct-29.0* 
MCV-90 MCH-30.5 MCHC-33.9 RDW-15.0 Plt ___
___ 06:55AM BLOOD WBC-20.1* RBC-3.49* Hgb-10.6* Hct-30.4* 
MCV-87 MCH-30.4 MCHC-34.9 RDW-14.9 Plt ___
___ 03:39PM BLOOD WBC-16.6* RBC-3.69* Hgb-11.0* Hct-32.6* 
MCV-88 MCH-29.8 MCHC-33.8 RDW-14.9 Plt ___
___ 03:39PM BLOOD Neuts-88.4* Lymphs-7.9* Monos-3.0 Eos-0.5 
Baso-0.2
___ 06:50AM BLOOD Plt ___
___ 05:45PM BLOOD Plt ___
___ 03:39PM BLOOD ___ PTT-35.3* ___
___ 06:50AM BLOOD Glucose-104* UreaN-73* Creat-2.6* Na-139 
K-4.1 Cl-104 HCO3-25 AnGap-14
___ 05:45PM BLOOD Glucose-160* UreaN-82* Creat-2.7* Na-136 
K-3.8 Cl-102 HCO3-23 AnGap-15
___ 06:40AM BLOOD Glucose-201* UreaN-104* Creat-2.9* Na-137 
K-3.9 Cl-99 HCO3-24 AnGap-18
___ 06:55AM BLOOD Glucose-182* UreaN-111* Creat-3.2* Na-137 
K-4.0 Cl-99 HCO3-27 AnGap-15
___ 03:39PM BLOOD Glucose-170* UreaN-112* Creat-3.2* Na-137 
K-3.9 Cl-98 HCO3-27 AnGap-16
___ 06:50AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.1
___ 05:45PM BLOOD Calcium-8.7 Phos-3.5 Mg-2.0
___ 06:50AM BLOOD Vanco-17.8
___ 07:45AM BLOOD Vanco-21.4*
___ 06:40AM BLOOD Vanco-15.8
___ 03:48PM BLOOD Lactate-1.2

___ 3:42 pm BLOOD CULTURE      #2 RIGHT ARM. 

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS

___ 4:00 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

___ 11:10 am BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending)

 
Brief Hospital Course:
Ms. ___ was evaluated in the Emergency Room by the Acute 
Care team and admitted to the hospital for further management of 
her perirectal abscess.  She was made NPO and hydrated with IV 
fluids as she was exquisitely tender and likely needed an exam 
under anesthesia and drainage in the Operating Room. Her WBC on 
admission was 16K and she was placed on Flagyl,Cipro and 
Vancomycin.  She also has renal insufficiency and had a 
creatinine of 3.2 on admission.

On ___ she was taken to the Operating Room for an exam under 
anesthesia as well as incision and drainage. She tolerated the 
procedure well and returned to the PACU in stable condition.  
She maintained stable hemodynamics and her pain was better 
controlled.  She developed diarrhea on the evening of surgery 
and her initial C difficile culture was negative.  She continued 
on vanomycin with daily dosing and close monitoring of the 
trough and her creatinine. Her creatinine has stabilized at 2.6. 
 Her vancomycin was discontinued on ___ and she was converted 
to oral ciprofloxacin and flagyl.   Her white blood cell count 
slowly normalized to 12.7. 
Her vital signs are stable and she is afebrile.  She is 
tolerating a regular diet and her diarrhea is resolving.  She 
has been evaluated by physical therapy and recommendations made 
for discharge to a ___ facility where she can regain 
her strength and mobiity and where she can have her creatinine 
monitored.  

Of note:  she did have a blood culture upon admission which was 
+ for gm +cocci in 1 bottle.  She did have a repeat blood 
culture sent on ___ with results pending.  
 
Medications on Admission:
Mirtazapine 15 mg daily
Citalopram 5 mg daily X 2 weeks, then 10 mg daily
Calcium with Vitamin D 600 mg-400 unit daily
Aranesp (polysorbate) 100 mcg/0.5 mL Syringe s/c once/month
Allopurinol ___ mg daily
Tylenol Extra Strength 500 mg PRN (pt takes up to 6/day)
FiberCon 1250 mg bid
lisinopril 40 mg daily
Edecrin 25 mg X 6/day
glipizide 5 mg bid
Ferrous Sulfate 650 mg in AM, 325 mg in ___
amlodipine 5 mg daily
Flonase 50 mcg 2 sprays/nostril daily
metolazone 5 mg   

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
2. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
3. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. glipizide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal BID (2 times a day).  
10. metolazone 2.5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. tramadol 50 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.  
12. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.  
13. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 4 days.
Disp:*12 Tablet(s)* Refills:*0*
14. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 4 days.
Disp:*4 Tablet(s)* Refills:*0*
15. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
16. insulin sliding scale as per flowsheet

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Perirectal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital with redness and pain on 
your buttock due to a rectal abscess.  You required an exam 
under anesthesia followed by drainage of the abscess.
* You will need continued dressing changes twice daily as well 
as ___ baths. It will take some time for the area to close in.
* It is important that you eat well and stay well hydrated to 
help heal your wound.

Your antibiotics have been changed to an oral route.  You are 
preparing for discharge to a rehabilitation facility where you 
can further recover and where you can regain your strength and 
mobility.
 
Followup Instructions:
___